US08877774B2
Preparation of (R)-5-(2-Amino-1-hydroxyethyl)-8-hydroxyquinolin-2(1H)-one hydrochloride
(R)-5-(2-Amino-1-(tert-butyldimethylsilyloxy)ethyl)-8-hydroxyquinolin-2(1H)-one formate (0.23 g, 0.61 mmol) was dissolved in hydrochloric acid (5 mL, 4 M solution in dioxane) and methanol (5 mL). The reaction mixture was stirred at RT for 16 hours before concentrating in vacuo. The resulting residue was washed with ethyl acetate and dried in a vacuum oven for 18 hours to afford the title compound (0.15 g, 99%).

reactant | (R)-5-(2-Amino-1-(tert-butyldimethylsilyloxy)ethyl)-8-hydroxyquinolin-2(1H)-one formate | 0.61 mmol, 0.23 g | C(=O)O.NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O
reactant | hydrochloric acid | 4 M, 5 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | (R)-5-(2-Amino-1-hydroxyethyl)-8-hydroxyquinolin-2(1H)-one hydrochloride | 0.15 g, 99% | Cl.NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C11H12N2O3.ClH/c12-5-9(15)6-1-3-8(14)11-7(6)2-4-10(16)13-11;/h1-4,9,14-15H,5,12H2,(H,13,16);1H/t9-;/m0./s1
